US03956295
Under the conditions of Example 31, but with the difference that excess morpholine is added to the reaction mixture in place of the ammonia, 7,8-dimethylcarbazole-1-carboxylic acid is converted into the carboxylic acid morpholide. After recrystallization from dioxane - water, 7,8-dimethylcarbazole-1-carboxylic acid morpholide is obtained in a 75% yield, m.p. 183° C.

reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | ammonia | N | H3N
reactant | 7,8-dimethylcarbazole-1-carboxylic acid | CC1=CC=C2C=3C=CC=C(C3NC2=C1C)C(=O)O | C15H13NO2
product | 7,8-dimethylcarbazole-1-carboxylic acid morpholide | 75% yield | CC1=CC=C2C=3C=CC=C(C3NC2=C1C)C(=O)N1CCOCC1 | C19H20N2O2
